.include TSMC_180nm.txt
.include mine_fun.cir
.param SUPPLY=1.8
.param LAMBDA=0.09u
.global gnd vdd

va a gnd pulse 0 1.8 0 1ns 1ns 5ns 10ns
vb b gnd pulse 0 1.8 0 1ns 1ns 15ns 30ns
vc c gnd pulse 0 1.8 0 1ns 1ns 10ns 20ns
vd d gnd pulse 0 1.8 0 1ns 1ns 30ns 60ns
ve e gnd pulse 0 1.8 0 1ns 1ns 25ns 50ns
vf f gnd pulse 0 1.8 0 1ns 1ns 25ns 50ns

Vclk clk gnd pulse(0 1.8 0n 0 0 20n 40n)
V2 d_in gnd pulse(0 1.8 0n 0 0 15n 30n)
x1 d_in q clk vdd gnd ff

Xinv abar a vdd gnd inv

Xand2 a b n_and2 vdd gnd and2
Xand3 a b c n_and3 vdd gnd and3
Xand4 a b c d n_and4 vdd gnd and4
Xand5 a b c d e n_and5 vdd gnd and5
Xand6 a b c d e f n_and6 vdd gnd and6

Xor2 a b n_or2 vdd gnd or2
Xor3 a b c n_or3 vdd gnd or3
Xor4 a b c d n_or4 vdd gnd or4
Xor5 a b c d e n_or5 vdd gnd or5
Xor6 a b c d e f n_or6 vdd gnd or6


Xxor a b xor_out vdd gnd xor

.tran 0.1n 100ns
.control
run
set color0=white
set color1=blue
set lwidth=4

plot v(a) v(abar) + 2

plot v(a) v(b) + 2 v(n_and2) + 4
plot v(a) v(b) + 2 v(c) + 4 v(n_and3) + 6
plot v(a) v(b) + 2 v(c) + 4 v(d) + 6 v(n_and4) + 8
plot v(a) v(b) + 2 v(c) + 4 v(d) + 6 v(e) + 8 (n_and5) + 10
plot v(a) v(b) + 2 v(c) + 4 v(d) + 6 v(e) + 8 v(f) + 10 (n_and6) + 12

plot v(a) v(b) + 2 v(n_or2) + 4
plot v(a) v(b) + 2 v(c) + 4 v(n_or3) + 6
plot v(a) v(b) + 2 v(c) + 4 v(d) + 6 v(n_or4) + 8
plot v(a) v(b) + 2 v(c) + 4 v(d) + 6 v(e) + 8 (n_or5) + 10
plot v(a) v(b) + 2 v(c) + 4 v(d) + 6 v(e) + 8 v(f) + 10 (n_or6) + 12

plot v(clk) v(d_in)+2  v(q)+4

plot v(a) v(b)+2 v(xor_out)+4

.title Sukeerthi-2024102074
.endc