.include TSMC_180nm.txt
.include mine_fun.cir
.param SUPPLY=1.8
.param LAMBDA=0.09u
.global gnd vdd


x1 a0 b0 g0 vdd gnd and2
x2 a0 b0 p0 vdd gnd xor

x3 a1 b1 g1 vdd gnd and2
x4 a1 b1 p1 vdd gnd xor

x5 a2 b2 g2 vdd gnd and2
x6 a2 b2 p2 vdd gnd xor

x7 a3 b3 g3 vdd gnd and2
x8 a3 b3 p3 vdd gnd xor

x9 a4 b4 g4 vdd gnd and2
x10 a4 b4 p4 vdd gnd xor

** Finding carry **

*c1
x11 p0 c0 p0c0 vdd gnd and2
x12 g0 p0c0 c1 vdd gnd or2

*c2
x13 p0 p1 c0 p1p0c0 vdd gnd and3
x14 p1 g0 p1g0 vdd gnd and2
x15 g1 p1g0 p1p0c0 c2 vdd gnd or3

*c3
x16 p2 g1 p2g1 vdd gnd and2
x17 p2 p1 g0 p2p1g0 vdd gnd and3
x18 p0 p1 p2 c0 p2p1p0c0 vdd gnd and4
x19 g2 p2g1 p2p1g0 p2p1p0c0 c3 vdd gnd or4

*c4
x20 p3 g2 p3g2 vdd gnd and2
x21 p3 p2 g1 p3p2g1 vdd gnd and3
x22 p3 p2 p1 g0 p3p2p1g0 vdd gnd and4
x23 p3 p2 p1 p0 c0 p3p2p1p0c0 vdd gnd and5
x24 g3 p3g2 p3p2g1 p3p2p1g0 p3p2p1p0c0 c4 vdd gnd or5

*c5
x25 p4 g3 p4g3 vdd gnd and2
x26 p4 p3 g2 p4p3g2 vdd gnd and3
x27 p4 p3 p2 g1 p4p3p2g1 vdd gnd and4
x28 p4 p3 p2 p1 g0 p4p3p2p1g0 vdd gnd and5
x29 p4 p3 p2 p1 p0 c0 p4p3p2p1p0c0 vdd gnd and6
x30 g4 p4g3 p4p3g2 p4p3p2g1 p4p3p2p1g0 p4p3p2p1p0c0 c5 vdd gnd or6


* s0
x31 p0 c0 s0 vdd gnd xor
*s1
x32 p1 c1 s1 vdd gnd xor
*s2
x33 p2 c2 s2 vdd gnd xor
*s3
x34 p3 c3 s3 vdd gnd xor
*s4
x35 p4 c4 s4 vdd gnd xor


*input A
x36 a0d a0 clk vdd gnd ff
x37 a1d a1 clk vdd gnd ff
x38 a2d a2 clk vdd gnd ff
x39 a3d a3 clk vdd gnd ff
x40 a4d a4 clk vdd gnd ff
*input B
x41 b0d b0 clk vdd gnd ff
x42 b1d b1 clk vdd gnd ff
x43 b2d b2 clk vdd gnd ff
x44 b3d b3 clk vdd gnd ff
x45 b4d b4 clk vdd gnd ff
*input c0
x46 c0d c0 clk vdd gnd ff


*output s3s2s1s0
x47 s0 s0q clk vdd gnd ff
x48 s1 s1q clk vdd gnd ff
x49 s2 s2q clk vdd gnd ff
x50 s3 s3q clk vdd gnd ff
x51 s4 s4q clk vdd gnd ff
*output c5
x52 c5 c5q clk vdd gnd ff

vclk clk gnd pulse 0 1.8 0 1ns 1ns 10ns 20ns

va0 a0d gnd pulse 0 1.8 0 1ns 1ns 13ns 26ns
va1 a1d gnd pulse 0 1.8 0 1ns 1ns 13ns 26ns
va2 a2d gnd pulse 0 1.8 0 1ns 1ns 17ns 34ns
va3 a3d gnd pulse 0 1.8 0 1ns 1ns 17ns 34ns
va4 a4d gnd pulse 0 1.8 0 1ns 1ns 13ns 26ns

vb0 b0d gnd pulse 0 1.8 0 1ns 1ns 15ns 30ns
vb1 b1d gnd pulse 0 1.8 0 1ns 1ns 15ns 30ns
vb2 b2d gnd pulse 0 1.8 0 1ns 1ns 15ns 30ns
vb3 b3d gnd pulse 0 1.8 0 1ns 1ns 15ns 30ns
vb4 b4d gnd pulse 0 1.8 0 1ns 1ns 17ns 34ns

vc0 c0d gnd 0

.tran  0.01n 100ns
.control
run

set color0=white
set color1=blue
set lwidth=4

plot v(a0) v(b0)+2 v(c0)+4 v(s0)+6 v(c1)+8 v(clk) + 12
plot v(a1) v(b1)+2 v(c1)+4 v(s1)+6 v(c2)+8 v(clk) + 12
plot v(a2) v(b2)+2 v(c2)+4 v(s2)+6 v(c3)+8 v(clk) + 12
plot v(a3) v(b3)+2 v(c3)+4 v(s3)+6 v(c4)+8 v(clk) + 12
plot v(a4) v(b4)+2 v(c4)+4 v(s4)+6 v(c5)+8 v(clk) + 12

.endc

