.include TSMC_180nm.txt
.param LAMBDA=0.09u
.global gnd vdd

.subckt nmos d g s b W='N'
.param width_N={W}
M1 d g s b CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
.ends nmos

.subckt pmos d g s b W='P'
.param width_P={W}
M1 d g s b CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P}
+ AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
.ends pmos

* inverter
.subckt inv y x vdd gnd 
XM1 y x vdd vdd pmos W='20*LAMBDA'  
XM2 y x gnd gnd nmos W='10*LAMBDA'
.ends inv

.subckt or2 a b out vdd gnd
XM1 x a vdd vdd pmos W='2*20*LAMBDA' 
XM2 nout b x vdd pmos W='2*20*LAMBDA' 
XM3 nout a gnd gnd nmos W='10*LAMBDA'
XM4 nout b gnd gnd nmos W='10*LAMBDA'
*inv
XI out nout vdd gnd inv
.ends or2

.subckt or3 a b c out vdd gnd

XM1 x a vdd vdd pmos W='3*20*LAMBDA' 
XM2 y b x vdd pmos W='3*20*LAMBDA' 
XM3 nout c y vdd pmos W='3*20*LAMBDA' 
XM4 nout a gnd gnd nmos W='10*LAMBDA'
XM5 nout b gnd gnd nmos W='10*LAMBDA'
XM6 nout c gnd gnd nmos W='10*LAMBDA'
*inv
XI1 out nout vdd gnd inv
.ends or3

.subckt or4 a b c d out vdd gnd

XM1 x a vdd vdd pmos W='4*20*LAMBDA' 
XM2 y b x vdd pmos W='4*20*LAMBDA'
XM3 z c y vdd pmos W='4*20*LAMBDA'
XM4 nout d z vdd pmos W='4*20*LAMBDA'

XM5 nout a gnd gnd nmos W='10*LAMBDA'
XM6 nout b gnd gnd nmos W='10*LAMBDA'
XM7 nout c gnd gnd nmos W='10*LAMBDA'
XM8 nout d gnd gnd nmos W='10*LAMBDA'

XI1 out nout vdd gnd inv
.ends or4

.subckt or5 a b c d e out vdd gnd

XM1 w a vdd vdd pmos W='5*20*LAMBDA'
XM2 x b w vdd pmos W='5*20*LAMBDA'
XM3 y c x vdd pmos W='5*20*LAMBDA' 
XM4 z d y vdd pmos W='5*20*LAMBDA' 
XM5 nout e z vdd pmos W='5*20*LAMBDA' 

XM6 nout a gnd gnd nmos W='10*LAMBDA'
XM7 nout b gnd gnd nmos W='10*LAMBDA'
XM8 nout c gnd gnd nmos W='10*LAMBDA'
XM9 nout d gnd gnd nmos W='10*LAMBDA'
XM10 nout e gnd gnd nmos W='10*LAMBDA'

*inv
XI1 out nout vdd gnd inv
.ends or5

.subckt or6 a b c d e f out vdd gnd

XM1 u a vdd vdd pmos W='6*20*LAMBDA'
XM2 v b u vdd pmos W='6*20*LAMBDA'
XM3 w c v vdd pmos W='6*20*LAMBDA'
XM4 x d w vdd pmos W='6*20*LAMBDA'
XM5 y e x vdd pmos W='6*20*LAMBDA'
XM6 nout f y vdd pmos W='6*20*LAMBDA'

XM7  nout a gnd gnd nmos W='10*LAMBDA'
XM8  nout b gnd gnd nmos W='10*LAMBDA'
XM9  nout c gnd gnd nmos W='10*LAMBDA'
XM10 nout d gnd gnd nmos W='10*LAMBDA'
XM11 nout e gnd gnd nmos W='10*LAMBDA'
XM12 nout f gnd gnd nmos W='10*LAMBDA'

*inv
XI1 out nout vdd gnd inv
.ends or6


.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u

vdd vdd gnd DC 1.8


* 2 input and
.subckt and2 a b out vdd gnd     
XM1 nout a vdd vdd pmos W='20*LAMBDA' 
XM2 nout b vdd vdd pmos W='20*LAMBDA'
XM3 nout a x gnd nmos W='20*LAMBDA'
XM4  x b gnd gnd nmos W='20*LAMBDA'
*inv
XI1 out nout vdd gnd inv
.ends and2

* 3 input and 
.subckt and3 a b c out vdd gnd
   
XM1 nout a vdd vdd pmos W= '20*LAMBDA' 
XM2 nout b vdd vdd pmos W= '20*LAMBDA' 
XM3 nout c vdd vdd pmos W= '20*LAMBDA' 
XM4 nout a x gnd nmos W='30*LAMBDA'  
XM5  x b y gnd nmos W= '30*LAMBDA' 
XM6 y c gnd gnd nmos W='30*LAMBDA' 
*inv
XI1 out nout vdd gnd inv
.ends and3


.subckt and4 a b c d out vdd gnd

XM1 nout a vdd vdd pmos W= '20*LAMBDA'
XM2 nout b vdd vdd pmos W= '20*LAMBDA'
XM3 nout c vdd vdd pmos W= '20*LAMBDA' 
XM4 nout d vdd vdd pmos W= '20*LAMBDA'
XM5 nout a x gnd nmos W= '40*LAMBDA'
XM6  x b y gnd nmos W= '40*LAMBDA'
XM7 y c z gnd nmos W= '40*LAMBDA'
XM8 z d gnd gnd nmos W='40*LAMBDA'

XI1 out nout vdd gnd inv
.ends and4

.subckt and5 a b c d e out vdd gnd

XM1 nout a vdd vdd pmos W= '20*LAMBDA'
XM2 nout b vdd vdd pmos W= '20*LAMBDA'
XM3 nout c vdd vdd pmos W= '20*LAMBDA' 
XM4 nout d vdd vdd pmos W= '20*LAMBDA'
XM5 nout e vdd vdd pmos W= '20*LAMBDA'
XM6 nout a w gnd nmos W= '50*LAMBDA'
XM7  w b x gnd nmos W= '50*LAMBDA'
XM8 x c y gnd nmos W= '50*LAMBDA'
XM9 y d z gnd nmos W='50*LAMBDA'
XM10 z e gnd gnd nmos W='50*LAMBDA'

*inv
XI1 out nout vdd gnd inv

.ends and5

.subckt and6 a b c d e f out vdd gnd

XM1 nout a vdd vdd pmos W= '20*LAMBDA'
XM2 nout b vdd vdd pmos W= '20*LAMBDA'
XM3 nout c vdd vdd pmos W= '20*LAMBDA' 
XM4 nout d vdd vdd pmos W= '20*LAMBDA'
XM5 nout e vdd vdd pmos W= '20*LAMBDA'
XM6 nout f vdd vdd pmos W= '20*LAMBDA'

XM7 nout a w gnd nmos W= '60*LAMBDA'
XM8  w b x gnd nmos W= '60*LAMBDA'
XM9 x c y gnd nmos W= '60*LAMBDA'
XM10 y d z gnd nmos W='60*LAMBDA'
XM11 z e u gnd nmos W='60*LAMBDA'
XM12 u f gnd gnd nmos W='60*LAMBDA'

XI1 out nout vdd gnd inv
.ends and6

.subckt xor a b out vdd gnd
.param width_P = {20*LAMBDA}
.param width_N = {10*LAMBDA}

M13 abar a vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M14 abar a gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

M15 bbar b vdd vdd CMOSP W={width_P} L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M16 bbar b gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}

* 2input XOR gate with Wn = 2*width_N and Wp = 2*width_P *
M1 p a vdd vdd CMOSP W={2*width_P} L={2*LAMBDA} 
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
M2 out bbar p vdd CMOSP W={2*width_P} L={2*LAMBDA} 
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
M3 q abar vdd vdd CMOSP W={2*width_P} L={2*LAMBDA} 
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}
M4 out b q vdd CMOSP W={2*width_P} L={2*LAMBDA} 
+ AS={5*2*width_P*LAMBDA} PS={10*LAMBDA+2*2*width_P} AD={5*2*width_P*LAMBDA} PD={10*LAMBDA+2*2*width_P}

M5 out a r gnd CMOSN W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
M6 r b gnd gnd CMOSN W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
M7 out abar s gnd CMOSN W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
M8 s bbar gnd gnd CMOSN W={2*width_N} L={2*LAMBDA}
+ AS={5*2*width_N*LAMBDA} PS={10*LAMBDA+2*2*width_N} AD={5*2*width_N*LAMBDA} PD={10*LAMBDA+2*2*width_N}
.ends xor

.subckt ff d q clk vdd gnd

XM1 x d gnd gnd nmos W='10*LAMBDA'
XM2 x clk a vdd pmos W='20*LAMBDA'
XM3 a d vdd vdd pmos W='20*LAMBDA'
XM4 b clk gnd gnd nmos W='10*LAMBDA'
XM5 y x b gnd nmos W='10*LAMBDA'
XM6 y clk vdd vdd pmos W='20*LAMBDA'
XM7 c y gnd gnd nmos W='10*LAMBDA'
XM8 qbar clk c gnd nmos W='10*LAMBDA'
XM9 qbar y vdd vdd pmos W='20*LAMBDA'
XM10 q qbar vdd vdd pmos W='20*LAMBDA'
XM11 q qbar gnd gnd nmos W='10*LAMBDA'

.ends ff
